US08372866B2
2-[(3-(imidazol-1-yl)-phenyl]-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one
Prepared analogously to Example 5.d, starting from 2-[(3-(imidazol-1-yl)-phenyl]-3-hydroxy-6-acetamido-4H-1-benzopyran-4-one. Yield: 55%; TLC (85/15 Chloroform/Methanol) Rf: 0.64; 1H-NMR (d6-DMSO): 10.28 (s broad, 1H), 8.44 (d, 1H), 8.23-8.16 (m, 2H), 8.04-7.9 (m, 2H), 7.85-7.65 (m, 4H), 7.27 (m, 4H), 7.14 (m, 1H), 5.17 (s, 2H), 2.12 (s, 3H).

reactant | (3-(imidazol-1-yl)-phenyl]-3-hydroxy-6-acetamido-4H-1-benzopyran-4-one | N1(C=NC=C1)C=1C=C(C=CC1)C=1OC2=C(C(C1O)=O)C=C(C=C2)NC(C)=O | C20H15N3O4
solvent | Chloroform Methanol | C(Cl)(Cl)Cl.CO
product | (3-(imidazol-1-yl)-phenyl]-3-benzyloxy-6-acetamido-4H-1-benzopyran-4-one | Yield: 55% | N1(C=NC=C1)C=1C=C(C=CC1)C=1OC2=C(C(C1OCC1=CC=CC=C1)=O)C=C(C=C2)NC(C)=O | C27H21N3O4
